US07910613B2
65: Cyclohexanecarboxylic acid [5-(5-methyl-[1,2,4]oxadiazol-3-yl)-4-phenyl-thiazol-2-yl]-amide
Prepared from 5-(5-methyl-[1,2,4]oxadiazol-3-yl)-4-phenyl-thiazol-2-ylamine and cyclohexanecarbonyl chloride.

reactant | 5-(5-methyl-[1,2,4]oxadiazol-3-yl)-4-phenyl-thiazol-2-ylamine | CC1=NC(=NO1)C1=C(N=C(S1)N)C1=CC=CC=C1 | C12H10N4OS
reactant | cyclohexanecarbonyl chloride | C1(CCCCC1)C(=O)Cl | C7H11ClO
product | Cyclohexanecarboxylic acid [5-(5-methyl-[1,2,4]oxadiazol-3-yl)-4-phenyl-thiazol-2-yl]-amide | CC1=NC(=NO1)C1=C(N=C(S1)NC(=O)C1CCCCC1)C1=CC=CC=C1 | C19H20N4O2S
